US07384934B2
6-Fluoro-2-methyl-4,9-dihydro-3-thia-4,9-diaza-benzo[f]azulene-10-thione
Add 6-fluoro-2-methyl-4,9-dihydro-3-thia-4,9-diaza-benzo[f]azulen-10-one (65.2 g, 0.263 mol) and 2,4-Bis-(4-methoxy-phenyl)-[1,3,2,4]dithiadiphosphetane 2,4-disulfide (Lawesson's Reagent, 63.7 g, 0.157 mol) to 1,2-dichloroethane (DCE, 3500 mL) with stirring. Heat to gentle reflux (80-83° C.) for 30 minutes, and then allow cooling to ambient temperature. Filter the product and rinse with DCE. Dry at 50-60° C. to give 61.9 (89%) the title compound: 1H NMR (400 MHz, DMSO-d6) δ 10.98 (bs, 1H), 8.87 (bs, 1H), 7.00 (m, 1H), 6.88 (s, 1H), 6.78(m, 1H), 6.56 (m, 1H), 2.22 (s, 3H). HRMS (ES) exact mass M+H calcd for C12H9FN2S2 265.0269; found 265.0276.

reactant | 6-fluoro-2-methyl-4,9-dihydro-3-thia-4,9-diaza-benzo[f]azulen-10-one | 0.263 mol, 65.2 g | FC=1C=CC2=C(NC=3SC(=CC3C(N2)=O)C)C1 | C12H9FN2OS
reactant | 2,4-Bis-(4-methoxy-phenyl)-[1,3,2,4]dithiadiphosphetane 2,4-disulfide | 0.157 mol, 63.7 g | COC1=CC=C(C=C1)P1(SP(S1)(C1=CC=C(C=C1)OC)=S)=S | C14H14O2P2S4
solvent | 1,2-dichloroethane | 3500 mL | ClCCCl | C2H4Cl2
product | 6-Fluoro-2-methyl-4,9-dihydro-3-thia-4,9-diaza-benzo[f]azulene-10-thione | FC=1C=CC2=C(NC=3SC(=CC3C(N2)=S)C)C1 | C12H9FN2S2
